US08138347B2
b) 2-amino-5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinesulfonyl chloride
To cold (0° C.) chlorosulfonic acid (15 mL) under vigorous stirring was added 5-[4-(4-pyridinyl)-6-quinolinyl]-2-pyridinamine (4.348 g, 14.57 mmol) portionwise. The reaction mixture was then heated at reflux for 16 hrs. Upon cooling to room temperature, LCMS indicated 47% of the title compound MS(ES)+m/e 396.9 [M+]+ and 37% of sulfonic acid by-product MS(ES)+ m/e 379.1 [M+]+. A 2 mL aliquot of this 0.456M solution of the title compound was used in the next reaction without further workup.

reactant | chlorosulfonic acid | 15 mL | ClS(=O)(=O)O | ClHO3S
reactant | 5-[4-(4-pyridinyl)-6-quinolinyl]-2-pyridinamine | 14.57 mmol, 4.348 g | N1=CC=C(C=C1)C1=CC=NC2=CC=C(C=C12)C=1C=CC(=NC1)N | C19H14N4
product | 2-amino-5-[4-(4-pyridinyl)-6-quinolinyl]-3-pyridinesulfonyl chloride | 47% | NC1=NC=C(C=C1S(=O)(=O)Cl)C=1C=C2C(=CC=NC2=CC1)C1=CC=NC=C1 | C19H13ClN4O2S
